US04753953
7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride
A mixture of 7-(cis-3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (0.3 g) in ethanol (5 ml) and ethanolic hydrochloride (6 ml) was stirred for 2 hours at room temperature and then concentrated. To the residue was added ethanol and the resulting precipitate was collected by filtration and washed with ethanol to give the title compound (0.21 g) as pale yellowish powder, mp 274°-275° C. (decompd.).

reactant | 7-(cis-3-t-butoxycarbonylamino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.3 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C23H27F2N3O5
reactant | hydrochloride | 6 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 7-(cis-3-Amino-4-methyl-1-pyrrolidinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid hydrochloride | 0.21 g | Cl.N[C@@H]1CN(C[C@@H]1C)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | InChI=1S/C18H19F2N3O3.ClH/c1-8-5-22(7-13(8)21)16-12(19)4-10-15(14(16)20)23(9-2-3-9)6-11(17(10)24)18(25)26;/h4,6,8-9,13H,2-3,5,7,21H2,1H3,(H,25,26);1H/t8-,13+;/m0./s1
